US05399589
A solution of 234 g (1.59 mol) of methyl (ethoxyamino)-oxoacetate in 450 ml of ethanol was added to a solution of 92.8 g (1.855 mol) of hydrazine hydrate in 300 ml of ethanol and the mixture was stirred for 2 hours at 65° C. The mixture was cooled to +10° C., the precipitate was suction filtered, washed with a small amount of cold ethanol, and dried. There was obtained 150 g (64.2% of theory) of 1-(ethoxyamino)-2-(hydrazino)-ethane-1,2-dione as white crystals of m.p. 182° C.

reactant | methyl (ethoxyamino)-oxoacetate | 1.59 mol, 234 g | C(C)ONC(C(=O)OC)=O | C5H9NO4
reactant | hydrazine hydrate | 1.855 mol, 92.8 g | O.NN
solvent | ethanol | 450 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(ethoxyamino)-2-(hydrazino)-ethane-1,2-dione | 150 g, 64.2% | C(C)ONC(C(=O)NN)=O | C4H9N3O3
